US07842688B2
a) Benzyl 4-{4-[2-(2,5-difluorophenoxy)ethoxymethyl]phenyl}-3-[4-(3-methoxypropyl)-3,4-dihydro-2H benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The stirred solution of 0.150 g of benzyl 4-(4-chloromethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate, 0.035 g of 2-(2,5-difluorophenoxy)ethanol and 2.0 ml of N,N-dimethylformamide is admixed at 0° C. with 0.0094 g of sodium hydride dispersion (55%). The reaction mixture is stirred at room temperature over a further 1 hour and subsequently poured onto 1M sodium hydrogencarbonate solution (30 ml). The mixture is extracted with tert-butyl methyl ether (2×30 ml). The organic phases are washed successively with water (30 ml) and brine (30 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.33 (1:1 EtOAc-heptane); Rt=5.78.

reactant | benzyl 4-(4-chloromethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.150 g | ClCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C33H39ClN2O5
reactant | 2-(2,5-difluorophenoxy)ethanol | 0.035 g | FC1=C(OCCO)C=C(C=C1)F | C8H8F2O2
reactant | sodium hydride | 0.0094 g | [H-].[Na+]
reactant | sodium hydrogencarbonate | 1M, 30 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | Benzyl 4-{4-[2-(2,5-difluorophenoxy)ethoxymethyl]phenyl}-3-[4-(3-methoxypropyl)-3,4-dihydro-2H benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | FC1=C(OCCOCC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(CCO3)CCCOC)C2)C=C(C=C1)F | C41H46F2N2O7
